US06956138B2
Into another flask, KOH (25.8 g), HO(CH2)5OH (47.9 g) and dioxane (200 ml) were charged and stirred at 90° C. until KOH was dissolved. Then, from a dropping funnel, PhCH2OCH2CH(CH3)OTs (71.2 g) and dioxane (75 ml) were added at 90° C. over a period of 20 minutes. After further stirring at 80° C. for 20 hours, water (350 ml) was added. Extraction with dichloromethane (100 ml) was carried out three times, and the extracted organic phase was washed with water (150 ml), then dried over anhydrous magnesium sulfate, filtered and further concentrated. The concentrated liquid was purified by silica gel column (eluent: hexane/ethyl acetate) to obtain PhCH2OCH2CH(CH3)O(CH2)5OH (20.8 g).

reactant | KOH | 25.8 g | [OH-].[K+]
reactant | HO(CH2)5OH | 47.9 g | OCCCCCO | C5H12O2
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | PhCH2OCH2CH(CH3)OTs | 71.2 g | C1(=CC=CC=C1)COCC(C)OS(=O)(=O)C1=CC=C(C)C=C1 | C17H20O4S
reactant | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | water | 350 ml | O | H2O
product | PhCH2OCH2CH(CH3)O(CH2)5OH | 20.8 g | C1(=CC=CC=C1)COCC(C)OCCCCCO | C15H24O3
